US07897767B2
Concentrated hydrochloric acid (0.80 mL, 9.3 mmol) was added to a stirred suspension of 1-(2-methylpropyl)-2-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine (1.10 g, 3.10 mmol) in water (24 mL). A solution resulted and was stirred at room temperature for 30 minutes. The solution was adjusted to pH 12 with 20% aqueous sodium hydroxide. A white solid precipitated and was isolated by filtration, washed with water, and recrystallized from ethyl acetate to yield 0.6 g of 4-[4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]butan-2-one as a monohydrate as a white powder, mp 172-174° C. 1H NMR (300 MHz, DMSO-d6) δ 7.98 (d, J=8.1 Hz, 1H), 7.61 (d, J=8.1 Hz, 1H), 7.41 (t, J=8.1 Hz, 1H), 7.26 (t, J=8.1 Hz, 1H), 6.41 (bs, 2H), 4.34 (d, J=7.5 Hz, 2H), 3.08 (bs, 41), 2.23 (s, 3H), 2.23-2.15 (m, 1H), 0.95 (d, J=6.9 Hz, 6H);

reactant | hydrochloric acid | 9.3 mmol, 0.80 mL | Cl | ClH
reactant | 1-(2-methylpropyl)-2-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 3.10 mmol, 1.10 g | CC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC2(OCCO2)C)C | C20H26N4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 24 mL | O | H2O
product | 4-[4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]butan-2-one | 0.6 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)C)CCC(C)=O | C18H22N4O
